US07196199B2
(S)-α-(2′-(3-(4-(4-chloro-3-fluorophenyl)piperidino)-2-hydroxypropyloxy)benzylidene)-γ-butyrolactone 1/2 hydrate
By the reaction in same manner as in Example 307 using (S)-α-(2′-(2,3-epoxypropan-1-yloxy)benzylidene)-γ-butyrolactone (1.0 g) and 4-(4-chloro-3-fluorophenyl)piperidine (0.8 g) in methanol (50 ml), the title compound (0.58 g), melting point 114–115° C.

reactant | (S)-α-(2′-(2,3-epoxypropan-1-yloxy)benzylidene)-γ-butyrolactone | 1.0 g | O1[C@H](COC2=C(C=C3C(=O)OCC3)C=CC=C2)C1 | C14H14O4
reactant | 4-(4-chloro-3-fluorophenyl)piperidine | 0.8 g | ClC1=C(C=C(C=C1)C1CCNCC1)F | C11H13ClFN
solvent | methanol | 50 ml | CO | CH4O
product | (S)-α-(2′-(3-(4-(4-chloro-3-fluorophenyl)piperidino)-2-hydroxypropyloxy)benzylidene)-γ-butyrolactone | 0.58 g | ClC1=C(C=C(C=C1)C1CCN(CC1)C[C@@H](COC1=C(C=C2C(=O)OCC2)C=CC=C1)O)F | C25H27ClFNO4
